US05902803
A mixture of 1 g of 9-aminomethyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one and 20 ml of acetic anhydride is stirred under an argon atmosphere for 2 hours at a temperature in the region of 20° C. The reaction mixture is filtered and the insoluble material is washed successively with 10 ml of acetic anhydride and two times 40 ml of methyl-tert-butyl ether and then dried under reduced pressure (15 mm Hg; 2 kPa) at 20° C. The white solid is suspended in a mixture of acetone (30 ml) and methanol (5 ml), then filtered and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 60° C. 1.03 g of N-[(4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-9-yl)methyl]acetamide are obtained in the form of a white solid, the melting point of which is greater than 260° C. (Analysis C16H14N4O2; % Calculated C: 65.30, H: 4.79, N: 19.04; % Found C: 65.20, H: 5.10, N: 19.30).

reactant | 9-aminomethyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 1 g | NCC=1C=2CC3=C(NC(C=4N3C=CN4)=O)C2C=CC1 | C14H12N4O
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-[(4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-9-yl)methyl]acetamide | 1.03 g | O=C1C=2N(C3=C(N1)C=1C=CC=C(C1C3)CNC(C)=O)C=CN2 | C16H14N4O2
